US05491143
Stir powdered methylenedioxy cinnamic acid (19.2 g, 210 mmol) in glacial acetic acid (200 mL) at room temperature while adding a solution of bromine (16 g, 100 mmol) in acetic acid (50 mL) over 30 minutes. Stir the homogeneous yellow solution for 15 minutes and add a solution of sodium cyabiborohydride (20 g) in water (50 mL) over 30 minutes. Stir for 48 hours at room temperature. Add water (70 mL) and stir for an additional 2 hours. Filter and wash the filtercake with acetic acid/water. Evaporate the solvent in vacuo and partition the residue between chloroform and water. Dry the organic phase (MgSO4) and evaporate the solvent in vacuo. Redissolve the residue in chloroform, filter and evaporate the solvent in vacuo to give 3-(3,4-methylenedioxyphenyl)-2-bromopropionic acid as a crystalline solid (15.1 g).

reactant | methylenedioxy cinnamic acid | 210 mmol, 19.2 g | C1OC(C(=O)O)=C(C2=CC=CC=C2)O1 | C10H8O4
reactant | bromine | 100 mmol, 16 g | BrBr | Br2
reactant | sodium | [Na] | Na
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
solvent | water | 70 mL | O | H2O
product | 3-(3,4-methylenedioxyphenyl)-2-bromopropionic acid | 15.1 g | C1OC=2C=C(C=CC2O1)CC(C(=O)O)Br | C10H9BrO4
